* gf180-pll :: cp-compliance :: charge-pump output compliance, UP/DN current
* mismatch, and 2-bit Icp trim (DC)
*
* sim/harness fragment.  The DUT (`cp`, reached through the `pfd_cp` hierarchy)
* is NOT in this file: the manifest's `dut_export` block has design/netlist.sh
* export the xschem hierarchy once per record and the harness `.include`s it
* ahead of this fragment.  Stimulus and measurement topology only -- no
* hand-transcribed copy of the design in sim/.
*
* Measurement topology (the same trick sim/devchar-cp/testbench/tb_cp_mirror.sp
* uses): TWO charge-pump instances share one swept output node `sw`, one
* hardwired UP-active and the other hardwired DN-active, each reaching `sw`
* through its own 0 V ammeter.  One DC sweep of `sw` from 0 to 3.63 V therefore
* traces the complete output characteristic of BOTH polarities -- through the
* saturation knee and into triode, not just the flat region -- and does so at
* identical output voltages, which is what makes the point-by-point UP/DN
* difference a real mismatch number rather than a comparison of two runs.
*
* Both instances carry the SAME trim code: DR-001's 2-bit trim is one shared
* code, not an independent per-polarity trim, so the mismatch reported at a
* code is a property of the design at that code.  The code is the manifest's
* `code` sweep axis -- one ngspice invocation per (PVT corner, trim code),
* exactly as the pre-migration `run.sh` ran it.
*
* Expects from the harness header:
*   .lib <process corner bundle>, .temp <temp_c>
*   .param vdd_val=<supply volts>  (also vdd_nom, temp_c)
*   .param iunit                            (manifest `params`)
*   .param b0_code=<0|1>  .param b1_code=<0|1>   (the `code` axis)

* Unit bias reference.  Reference GENERATION is a separate block and out of
* this issue's scope, so -- exactly as in sim/devchar-cp -- the four bias nodes
* are driven from ideal current sources at 4x the unit-leg current (the bias
* diodes are 4x the unit geometry, so each leg still mirrors one unit).  The
* mismatch this deck measures is therefore the OUTPUT STAGE's own; a real bias
* generator adds to it, and that addition is carried explicitly in the budget
* in design/README.md.

*------------------------------------------------------------------ supplies
vdd vdd 0 dc 'vdd_val'
vss vss 0 dc 0
* Swept output node, shared by both polarities.
vsw sw 0 dc 0
* Static logic levels for the hardwired steering inputs.
vhi hi 0 dc 'vdd_val'
vlo lo 0 dc 0
* Static 2-bit trim code, shared by both instances.
vb0 b0 0 dc 'vdd_val*b0_code'
vb1 b1 0 dc 'vdd_val*b1_code'

*---------------------------------------------------------- UP-only instance
* up=1 (sourcing into sw), dn=0 (idle, steered to VSS).
xcpu hi lo b0 b1 ibn_u icn_u ibp_u icp_u d_up vdd vss cp
iibn_u vdd ibn_u dc 'iunit'
iicn_u vdd icn_u dc 'iunit'
iibp_u ibp_u 0 dc 'iunit'
iicp_u icp_u 0 dc 'iunit'
* Ammeter oriented so i(vam_up) is positive for current the pump SOURCES.
vam_up d_up sw 0

*---------------------------------------------------------- DN-only instance
* up=0 (idle, steered to VSS), dn=1 (sinking from sw).
xcpd lo hi b0 b1 ibn_d icn_d ibp_d icp_d d_dn vdd vss cp
iibn_d vdd ibn_d dc 'iunit'
iicn_d vdd icn_d dc 'iunit'
iibp_d ibp_d 0 dc 'iunit'
iicp_d icp_d 0 dc 'iunit'
* Ammeter oriented so i(vam_dn) is positive for current the pump SINKS.
vam_dn sw d_dn 0
